US07713996B2
A solution of 4,5-dimethyl-3-nitrobenzoic acid (Helv. Chim. Acta 1980, 37, 385; 2.50 g, 12.8 mmol) and N,N-dimethylformamide dimethyl acetal (3.66 g, 30.7 mmol) in N,N-dimethylformamide (25 mL) was heated at 140° C. for 4 h, then volatile material was removed by distillation. The residue was taken up in tetrahydrofuran (10 mL) and methanol (10 mL), then Raney nickel (aqueous suspension, 1 mL) and hydrazine hydrate (1.85 g, 57.6 mmol) were added over 30 min in three portions at 50° C., and the reaction was kept at 50° C. for another 90 min. The reaction mixture was filtered through diatomaceous earth, the filtrate was dried (MgSO4), and evaporated. Chromatography (SiO2, heptane-ethyl acetate 2:1) produced 4-methyl-1H-indole-6-carboxylic acid methyl ester (1.68 g, 69%). White solid, MS (ISP): m/e 190.3 (M+H).

reactant | 4,5-dimethyl-3-nitrobenzoic acid | 12.8 mmol, 2.50 g | CC1=C(C=C(C(=O)O)C=C1C)[N+](=O)[O-] | C9H9NO4
reactant | N,N-dimethylformamide dimethyl acetal | 30.7 mmol, 3.66 g | COC(N(C)C)OC | C5H13NO2
reactant | hydrazine hydrate | 57.6 mmol, 1.85 g | O.NN
reactant | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | methanol | 10 mL | CO | CH4O
catalyst | Raney nickel | 1 mL | [Ni] | Ni
product | 4-methyl-1H-indole-6-carboxylic acid methyl ester | 1.68 g, 69% | COC(=O)C1=CC(=C2C=CNC2=C1)C | C11H11NO2
